US05969139
Reaction of 3-amino-5,5-dimethyl-2-cyclohexen- 1-one with 3-bromo-4-fluorobenzaldehyde in an analogous manner to that described in Example 1 gave 9-(3-bromo-4-fluorophenyl)-3,4,6,7,9,10-hexahydro-3,3,6,6-tetramethyl-1,8(2H,5H)-acridinedione. Crystallization from absolute ethanol gave a pale yellow crystalline solid of melting point 260° C. (decomposition).

reactant | 3-amino-5,5-dimethyl-2-cyclohexen- 1-one | NC1=CC(CC(C1)(C)C)=O | C8H13NO
reactant | 3-bromo-4-fluorobenzaldehyde | BrC=1C=C(C=O)C=CC1F | C7H4BrFO
product | 9-(3-bromo-4-fluorophenyl)-3,4,6,7,9,10-hexahydro-3,3,6,6-tetramethyl-1,8(2H,5H)-acridinedione | BrC=1C=C(C=CC1F)C1C=2C(CC(CC2NC=2CC(CC(C12)=O)(C)C)(C)C)=O | C23H25BrFNO2
